US07572820B2
2-(Difluoromethyl)-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-1H-indole-4,5-dicarbonitrile
Synthesized as described in Example 23 from 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole: MS (ES) m/z 412 (M+1).

reactant | 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | FC(C=1NC2=CC=C(C(=C2C1)C#N)C#N)F | C11H5F2N3
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
product | 2-(Difluoromethyl)-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-1H-indole-4,5-dicarbonitrile | FC(C=1N(C2=CC=C(C(=C2C1)C#N)C#N)CC1=NOC(=N1)C1=CC(=CC(=C1)F)F)F | C20H9F4N5O
